US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid (39):
To a solution of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetate (6.5 mg, 0.013 mmol) in tetrahydrofuran:ethanol:water (2:2:1, 4 mL) was added lithium hydroxide (2 mg, 0.066 mmol) and the reaction was heated to 50° C. overnight. The reaction was purified by reverse phase HPLC (Gemini, 40-60% ACN/H2O+0.1% TFA). The product was lyophilized to give a white powder (1.2 mg). 1H-NMR: 400 MHz, (CD3OD) δ: 8.14 (s, 1H), 7.74 (d, J=6.4 Hz, 1H), 7.58 (s, 2H), 7.56 (as, 1H), 7.33 (m, 3H), 5.18 (s, 1H), 4.42 (s, 2H), 3.04 (s, 6H), 2.67 (s, 3H), 0.99 (s, 9H). LCMS-ESI+ (m/z): [M+H]+ calcd for C28H31ClNO3: 464.19; found: 464.51.

reactant | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetate | 0.013 mmol, 6.5 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C#CCN(C)C)C1=CC=C(C=C1)Cl | C30H34ClNO3
reactant | lithium hydroxide | 0.066 mmol, 2 mg | [OH-].[Li+]
solvent | tetrahydrofuran ethanol water | 4 mL | O1CCCC1.C(C)O.O
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-5-(3-(dimethylamino)prop-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | 1.2 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC=CC(=C2C=C1C)C#CCN(C)C)C1=CC=C(C=C1)Cl | C28H30ClNO3
